*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1360-331
* Inductance = 0.33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER1360-331_freq port1 port2 PARAMS: Cpar=33.5pF Ind=0.33uH
X1 port1 port2 Model1A PARAMS:
+ R1=263
+ R2=0.002
+ C= {Cpar}
+ K1=0.0000212
+ K2=0.126
+ K3= {Ind}
+ K4=0.00419
+ K5=0.00000976
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=96.9442996
.ends SER1360-331_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1360-331
* Inductance = 0.33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER1360-331_imp port1 port2 PARAMS: Cpar=30.89pF Ind=0.33uH
X1 port1 port2 Model1D PARAMS:
+ R1=263
+ R2=0.002
+ C= {Cpar}
+ K1=0.0000212
+ K2=0.126
+ K3= {Ind}
+ K4=0.00419
+ K5=0.00000976
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=96.9442996
.ends SER1360-331_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1360-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER1360-102_freq port1 port2 PARAMS: Cpar=17.8pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=263
+ R2=0.032
+ C= {Cpar}
+ K1=0.0000149
+ K2=0.432
+ K3= {Ind}
+ K4=0.0142
+ K5=0.00000976
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=278.350055
.ends SER1360-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1360-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER1360-102_imp port1 port2 PARAMS: Cpar=16.31pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=263
+ R2=0.032
+ C= {Cpar}
+ K1=0.0000149
+ K2=0.432
+ K3= {Ind}
+ K4=0.0142
+ K5=0.00000976
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=278.350055
.ends SER1360-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1360-182
* Inductance = 1.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER1360-182_freq port1 port2 PARAMS: Cpar=17.8pF Ind=1.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=326
+ R2=0.048
+ C= {Cpar}
+ K1=0.0000077
+ K2=0.642
+ K3= {Ind}
+ K4=0.0216
+ K5=0.00000976
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=387.926985
.ends SER1360-182_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1360-182
* Inductance = 1.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER1360-182_imp port1 port2 PARAMS: Cpar=16.60pF Ind=1.8uH
X1 port1 port2 Model1D PARAMS:
+ R1=326
+ R2=0.048
+ C= {Cpar}
+ K1=0.0000077
+ K2=0.642
+ K3= {Ind}
+ K4=0.0216
+ K5=0.00000976
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=387.926985
.ends SER1360-182_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1360-402
* Inductance = 4uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER1360-402_freq port1 port2 PARAMS: Cpar=9.8pF Ind=4uH
X1 port1 port2 Model1A PARAMS:
+ R1=406
+ R2=0.185
+ C= {Cpar}
+ K1=0.0000053
+ K2=1.4
+ K3= {Ind}
+ K4=0.0456
+ K5=0.00000994
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=992.936027
.ends SER1360-402_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1360-402
* Inductance = 4uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER1360-402_imp port1 port2 PARAMS: Cpar=9.18pF Ind=4uH
X1 port1 port2 Model1D PARAMS:
+ R1=406
+ R2=0.185
+ C= {Cpar}
+ K1=0.0000053
+ K2=1.4
+ K3= {Ind}
+ K4=0.0456
+ K5=0.00000994
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=992.936027
.ends SER1360-402_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1360-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER1360-472_freq port1 port2 PARAMS: Cpar=9.1pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=466
+ R2=0.129
+ C= {Cpar}
+ K1=0.00000453
+ K2=1.5
+ K3= {Ind}
+ K4=0.0456
+ K5=0.00000994
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1102.37819
.ends SER1360-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1360-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER1360-472_imp port1 port2 PARAMS: Cpar=8.62pF Ind=4.7uH
X1 port1 port2 Model1D PARAMS:
+ R1=466
+ R2=0.129
+ C= {Cpar}
+ K1=0.00000453
+ K2=1.5
+ K3= {Ind}
+ K4=0.0456
+ K5=0.00000994
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1102.37819
.ends SER1360-472_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1360-602
* Inductance = 6uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER1360-602_freq port1 port2 PARAMS: Cpar=9.2pF Ind=6uH
X1 port1 port2 Model1A PARAMS:
+ R1=745
+ R2=0.08
+ C= {Cpar}
+ K1=0.00000633
+ K2=2.08
+ K3= {Ind}
+ K4=0.0408
+ K5=0.00000994
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1061.9877
.ends SER1360-602_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1360-602
* Inductance = 6uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER1360-602_imp port1 port2 PARAMS: Cpar=8.86pF Ind=6uH
X1 port1 port2 Model1D PARAMS:
+ R1=745
+ R2=0.08
+ C= {Cpar}
+ K1=0.00000633
+ K2=2.08
+ K3= {Ind}
+ K4=0.0408
+ K5=0.00000994
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1061.9877
.ends SER1360-602_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1360-802
* Inductance = 8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER1360-802_freq port1 port2 PARAMS: Cpar=7pF Ind=8uH
X1 port1 port2 Model1A PARAMS:
+ R1=495
+ R2=0.133
+ C= {Cpar}
+ K1=0.0000369
+ K2=2.91
+ K3= {Ind}
+ K4=0.0606
+ K5=0.00000994
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2100.73654
.ends SER1360-802_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1360-802
* Inductance = 8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER1360-802_imp port1 port2 PARAMS: Cpar=6.72pF Ind=8uH
X1 port1 port2 Model1D PARAMS:
+ R1=495
+ R2=0.133
+ C= {Cpar}
+ K1=0.0000369
+ K2=2.91
+ K3= {Ind}
+ K4=0.0606
+ K5=0.00000994
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2100.73654
.ends SER1360-802_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1360-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER1360-103_freq port1 port2 PARAMS: Cpar=7pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=495
+ R2=0.067
+ C= {Cpar}
+ K1=0.0000224
+ K2=2.63
+ K3= {Ind}
+ K4=0.0606
+ K5=0.00000994
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2433.06061
.ends SER1360-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER1360-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER1360-103_imp port1 port2 PARAMS: Cpar=6.78pF Ind=10uH
X1 port1 port2 Model1D PARAMS:
+ R1=495
+ R2=0.067
+ C= {Cpar}
+ K1=0.0000224
+ K2=2.63
+ K3= {Ind}
+ K4=0.0606
+ K5=0.00000994
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2433.06061
.ends SER1360-103_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
